US08791142B2
Step 3) 1-[4-bromo-2-(methoxymethyl)phenyl]-2-ethylpiperidine
To a solution of sodium hydride (2.3 g, 93 mmol) in anhydrous DMF (130 mL) was added a solution of [5-bromo-2-(2-ethylpiperidin-1-yl)phenyl]methanol (15 g, 48.3 mmol) in DMF (20 mL) drop wise at 0° C. After 30 minutes, methyl iodide was added drop wise at 0° C. The reaction mixture was quenched with a saturated aqueous solution of NH4Cl (30 mL), then diluted with water (100 mL) and extracted with EtOAc. The organic layer was dried (Na2SO4) and concentrated under reduced pressure to afford the title compound as a yellow oil (15.2 g, 97%). 1H NMR (CDCl3, 400 MHz) δ 7.59 (1H, s), 7.35 (1H, d), 7.02 (1H, d), 4.49-4.59 (2H, m), 3.43 (3H, s), 2.88 (1H, d), 2.75 (1H, bs), 2.51 (1H, bs), 1.79-1.86 (2H, m), 1.62 (3H, d), 1.40 (2H, m), 0.88 (2H, m), 0.70 (3H, t).

reactant | sodium hydride | 93 mmol, 2.3 g | [H-].[Na+]
reactant | [5-bromo-2-(2-ethylpiperidin-1-yl)phenyl]methanol | 48.3 mmol, 15 g | BrC=1C=CC(=C(C1)CO)N1C(CCCC1)CC | C14H20BrNO
reactant | methyl iodide | CI | CH3I
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-[4-bromo-2-(methoxymethyl)phenyl]-2-ethylpiperidine | 15.2 g, 97% | BrC1=CC(=C(C=C1)N1C(CCCC1)CC)COC | C15H22BrNO
